US07648985B2
N-{2-[7-(2-Benzo[d]isoxazol-3-yl-ethyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-4-cyano-benzenesulfonamide
To 4-cyano-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide dihydrochloride (0.123 g, 0.30 mmol, from prep E above), methanesulfonic acid 2-benzo[d]isoxazol-3-yl-ethyl ester (0.076 g, 0.315 mmol, from prep AD above) and potassium carbonate (0.145 g, 1.05 mmol; from Prep ) was added acetonitrile (4 mL) and water (0.1 mL). The mixture was heated by microwave irradiation (10 minutes, 160° C.) and was then filtered and evaporated. The crude product was purified by chromatography on silica gel using methanol saturated with ammonia in dichloromethane as eluent, which afforded 60 mg (41.5%) of the title compound.

reactant | 4-cyano-N-[2-(9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl)-ethyl]-benzenesulfonamide dihydrochloride | 0.30 mmol, 0.123 g | Cl.Cl.C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCN1CC2CNCC(C1)O2
reactant | methanesulfonic acid 2-benzo[d]isoxazol-3-yl-ethyl ester | 0.315 mmol, 0.076 g | O1N=C(C2=C1C=CC=C2)CCOS(=O)(=O)C | C10H11NO4S
reactant | potassium carbonate | 1.05 mmol, 0.145 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | 0.1 mL | O | H2O
product | N-{2-[7-(2-Benzo[d]isoxazol-3-yl-ethyl)-9-oxa-3,7-diaza-bicyclo[3.3.1]non-3-yl]-ethyl}-4-cyano-benzenesulfonamide | 60 mg, 41.5% | O1N=C(C2=C1C=CC=C2)CCN2CC1CN(CC(C2)O1)CCNS(=O)(=O)C1=CC=C(C=C1)C#N | C24H27N5O4S
